US07767665B2
3-(2-Pyridyl)propyl acetate
2-Pyridinepropanol (2.0 g, 14.6 mmol) was dissolved in pyridine (5 ml), and acetic anhydride (3.0 g, 29.2 mmol) was added thereto. The reaction mixture was stirred at room temperature for 2.5 hrs, and subjected to a silica gel (75 g) column chromatography. The fractions eluted with hexane-ethyl acetate (3:1, v/v) were collected and concentrated to give the titled compound (2.6 g, 99%).

reactant | 2-Pyridinepropanol | 14.6 mmol, 2.0 g | N1=C(C=CC=C1)CCCO | C8H11NO
reactant | acetic anhydride | 29.2 mmol, 3.0 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 3-(2-Pyridyl)propyl acetate | 2.6 g, 99% | C(C)(=O)OCCCC1=NC=CC=C1 | C10H13NO2
